US08487108B2
(S)-tert-butyl 1-(4-(tert-butyldimethylsilyloxy)cyclohexyl)-3-(N-methyl-N-(benzyloxycarbonyl)amino)propan-2-ylcarbamate (1.2 g, 2.25 mmol) was dissolved in 2 M HCl MeOH (10 mL) and stirred at 30° C. for 1 hr. The solvent was removed to give the crude (S)-benzyl 2-amino-3-(4-hydroxycyclohexyl)propyl(methyl)carbamate which was used for next step directly.

reactant | (S)-tert-butyl 1-(4-(tert-butyldimethylsilyloxy)cyclohexyl)-3-(N-methyl-N-(benzyloxycarbonyl)amino)propan-2-ylcarbamate | 2.25 mmol, 1.2 g | [Si](C)(C)(C(C)(C)C)OC1CCC(CC1)C[C@@H](CN(C(=O)OCC1=CC=CC=C1)C)NC(OC(C)(C)C)=O | C29H50N2O5Si
solvent | HCl MeOH | 2 M, 10 mL | Cl.CO
product | (S)-benzyl 2-amino-3-(4-hydroxycyclohexyl)propyl(methyl)carbamate | N[C@H](CN(C(OCC1=CC=CC=C1)=O)C)CC1CCC(CC1)O | C18H28N2O3
